US06288120B1
Step B: 2-(3,5-Dichloro-phenoxy)-ethylamine.
A solution of 2-[2-(3,5-dichloro-phenoxy)-ethyl]-isoindole-1,3-dione (1.29 g, 3.84 mmol) and hydrazine hydrate (202 mg, 4.05 mmol) in MeOH (16 mL) was heated at reflux for 2 h. The mixture was cooled to room temperature and Et2O was added. The suspension was shaken with 40% aqueous potassium hydroxide. The aqueous solution was extracted with Et2O (3×) and the combined organic layers were dried (K2CO3), filtered, and concentrated to provide the title compound (870 mg). 1HNMR (400 MHz, CDCl3) δ 6.95 (m, 1H), 6.80 (m, 2H), 3.95 (m, 2H), 3.07 (t, 2H), 1.70 (bs, 2H).

reactant | 2-[2-(3,5-dichloro-phenoxy)-ethyl]-isoindole-1,3-dione | 3.84 mmol, 1.29 g | ClC=1C=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C16H11Cl2NO3
reactant | hydrazine hydrate | 4.05 mmol, 202 mg | O.NN
reactant | Et2O | CCOCC | C4H10O
reactant | potassium hydroxide | [OH-].[K+]
solvent | MeOH | 16 mL | CO | CH4O
product | 2-(3,5-Dichloro-phenoxy)-ethylamine | 870 mg | ClC=1C=C(OCCN)C=C(C1)Cl | C8H9Cl2NO
